US04061759
A mixture of 680 mg. of acetic anhydride and 10 ml. of tetrahydrofuran was added slowly to 653 mg. of 2-methyl-3-hydroxy-4-mercaptomethyl-5-vinylpyridine in 20 ml. of tetrahydrofuran at 10° C. After stirring for one hour at room temperature, the mixture was evaporated to dryness. The residue was triturated with a mixture of 20 ml. of ethyl acetate and 20 ml. of water. The ethyl acetate was separated, dried over magnesium sulfate, and evaporated to dryness. The residue was recrystallized from cyclohexane to give 2-methyl-3-acetoxy-4-acetylthiomethyl-5-vinylpyridine, m.p. 72°-73° C. The same product is obtained by starting with the S-acetate product of Example 5.

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-methyl-3-hydroxy-4-mercaptomethyl-5-vinylpyridine | CC1=NC=C(C(=C1O)CS)C=C | C9H11NOS
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-methyl-3-acetoxy-4-acetylthiomethyl-5-vinylpyridine | CC1=NC=C(C(=C1OC(C)=O)CSC(C)=O)C=C | C13H15NO3S
